US09034880B2
A mixture of 3-(8-chloro-1,2,3,4-tetrahydro-2-methylpyrido[4,3-b]indol-5-yl)propanoic acid (50 mg, 0.17 mmol), 4-methyl Piperidine (0.02 mL, 0.17 mmol), DCC (38 mg, 0.18 mmol), and DMAP (23 mg, 0.18 mmol) in dry DCM (2 mL) was stirred at room temperature for 3 h. The reaction mixture was filtered through Celite and concentrated to obtain 12 mg of 3-(8-chloro-1,2,3,4-tetrahydro-2-methylpyrido[4,3-b]indol-5-yl)-1-(4-methylpiperidin-1-yl)propan-1-one as TFA salt after purification by reverse-phase chromatography (C-18, 500 mm×50 mm, Mobile Phase A=0.05% TFA in water, B=0.05% TFA in acetonitrile, Gradient: 10% B to 80% B in 30 min, injection vol. 5 mL).

reactant | 3-(8-chloro-1,2,3,4-tetrahydro-2-methylpyrido[4,3-b]indol-5-yl)propanoic acid | 0.17 mmol, 50 mg | ClC1=CC=2C3=C(N(C2C=C1)CCC(=O)O)CCN(C3)C | C15H17ClN2O2
reactant | 4-methyl Piperidine | 0.17 mmol, 0.02 mL | CC1CCNCC1 | C6H13N
reactant | DCC | 0.18 mmol, 38 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 0.18 mmol, 23 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-(8-chloro-1,2,3,4-tetrahydro-2-methylpyrido[4,3-b]indol-5-yl)-1-(4-methylpiperidin-1-yl)propan-1-one | 12 mg | ClC1=CC=2C3=C(N(C2C=C1)CCC(=O)N1CCC(CC1)C)CCN(C3)C | C21H28ClN3O
